US04145432
(4)-(1) A solution of 2-nitrobenzaldehyde (9.0672 g), ethyl 4,4-diethoxyacetoacetate (13.0944 g) and piperidine (1ml) in benzene (45 ml) was refluxed under azeotropic dehydration for 3 hours. To the resultant solution was added water, and the solution was extracted with diethyl ether. The extract was washed three times with water, dried and then the solvent was removed under reduced pressure to give ethyl 2-(2-nitrobenzylidene)-4,4-diethoxyacetoacetate. The mixture of the compound obtained above and ethyl 3-aminocrotonate (7.7496 g) was heated in an oil bath (95° to 100° C.) for 8 hours. The resultant mixture was extracted with diethyl ether, and the extract was washed with water and dried. The solvent was removed from the extract. The residue was purified by column chromatography on silica gel with an eluent (benzene : ethyl acetate = 20:1) to give oily diethyl 2-methyl-4-(2-nitrophenyl)-6-diethoxymethyl-1,4-dihydropyridine-3,5-dicarboxylate (19.3 g). The product was crystallized in n-hexane and the crystals were collected by filtration and then recrystallized from a mixture of n-hexane and diethyl ether to give the pure compound, m.p. 80° to 81.5° C.

reactant | 2-nitrobenzaldehyde | 9.0672 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | ethyl 4,4-diethoxyacetoacetate | 13.0944 g | C(C)OC(C(CC(=O)OCC)=O)OCC | C10H18O5
reactant | piperidine | 1ml | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | benzene | 45 ml | C1=CC=CC=C1 | C6H6
product | ethyl 2-(2-nitrobenzylidene)-4,4-diethoxyacetoacetate | [N+](=O)([O-])C1=C(C=C(C(=O)OCC)C(=O)C(OCC)OCC)C=CC=C1 | C17H21NO7
